US07470705B2
Step 3. Preparation of (2R,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester
Add triethylamine (25 μL) and 4-dimethylaminopyridine (10 mg, 80 μmol) to a solution of (2R,4S)-4-[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carbonyl chloride (100 mg, 0.16 mmol) and ethanol (28 μL) in dichloromethane (0.9 mL). Stir the mixture at room temperature for 8 h. Evaporate the solvent and purify the crude material by silica gel chromatography (elution with hexane/ethyl acetate) to afford the title compound (51 mg, 51%). MS (ES+): 626 (M+H).

reactant | triethylamine | 25 μL | C(C)N(CC)CC | C6H15N
reactant | (2R,4S)-4-[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carbonyl chloride | 0.16 mmol, 100 mg | FC(C=1C=C(CN([C@H]2C[C@H](N(C3=CC=C(N=C23)C(F)(F)F)C(=O)Cl)CC)C=2N=NN(N2)C)C=C(C1)C(F)(F)F)(F)F | C23H19ClF9N7O
reactant | ethanol | 28 μL | C(C)O | C2H6O
catalyst | 4-dimethylaminopyridine | 80 μmol, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 0.9 mL | ClCCl | CH2Cl2
product | (2R,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 51 mg, 51% | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)C(F)(F)F)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C25H24F9N7O2
